US08445529B2
2-Aminocarbonylamino-6-methoxyindole-3-carboxamide (Compound No.1-1)
Trichloroacetyl isocyanate (1.7 mL, 14 mmol) was added dropwide to a solution of 2-amino-6-methoxyindole-3-carboxamide (Reference compound No.2-1, 2.9 g, 14 mmol) in anhydrous tetrahydrofuran (50 mL) at −40° C. over a period of 10 minutes and the mixture was stirred for 2.5 hours. Moreover, 2.0 M ammonia in methanol solution (40 mL, 80 mmol) was added thereto and the mixture was stirred overnight at room temperature. The reaction solution was concentrated in vacuo, and the obtained solid was filtered off and washed with a mixed solvent of chloroform-methanol (50 mL). The solid was dried at 40° C. under reduced pressure to give the title compound (3.1 g) as a gray solid (88%).

reactant | Trichloroacetyl isocyanate | 14 mmol, 1.7 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | 2-amino-6-methoxyindole-3-carboxamide | 14 mmol, 2.9 g | NC=1NC2=CC(=CC=C2C1C(=O)N)OC | C10H11N3O2
reactant | ammonia | 2.0 M | N | H3N
reactant | methanol | 80 mmol, 40 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-Aminocarbonylamino-6-methoxyindole-3-carboxamide | 3.1 g, 88% | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)OC | C11H12N4O3
